US04672106
In 40 ml of acetic acid was dissolved 4.00 g of Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-Nε -benzyloxycarbonyl-lysine benzyl ester, and the solution was hydrogenolyzed in the presence of palladium-on-carbon in a hydrogen stream at room temperature. The catalyst was removed by filtration, and the filtrate was concentrated. To the residue was added diethyl ether, and the precipitated powder was recrystallized from methanoldiethyl ether to obtain 2.37 g of Nα -(t-butyloxycarbonylalanyl-D-isoglutaminyl)-lysine.

reactant | Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-Nε -benzyloxycarbonyl-lysine benzyl ester | 4.00 g | C(C1=CC=CC=C1)OC([C@@H](NC(CC[C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C)=O)C(N)=O)=O)CCCCNC(=O)OCC1=CC=CC=C1)=O | C34H47N5O9
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | Nα -(t-butyloxycarbonylalanyl-D-isoglutaminyl)-lysine | 2.37 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@H](CCC(=O)N[C@@H](CCCCN)C(=O)O)C(N)=O | C19H35N5O7
